US07459562B2
C) 4-(4-Amino-2-fluorophenoxy)-N-(4-fluorophenyl)pyridin-2-amine
A mixture of N-(3-fluoro-4-(2-(4-fluorophenylamino)pyridin-4-yloxy)phenyl)acetamide (18 mg, 0.051 mmol), 6 M HCl (0.1 mL, 0.60 mmol) and MeOH (1.5 mL) was heated at reflux for 2 h. The mixture was concentrated in vacuo and the residue made basic with saturated aq. NaHCO3 solution then extracted with EtOAc. The extract was dried (MgSO4) and concentrated in vacuo to give the title compound (14 mg, 88%) as a red gum. 1H NMR (DMSO-d6) δ 8.97 (s, 1H), 7.98 (d, 1H, J=5.8 Hz), 7.64-7.60 (m, 2H), 7.05 (dd, 2H, J=9.1, 8.8 Hz), 6.97 (dd, 1H, J=9.4, 8.8 Hz), 6.51 (dd, 1H, J=13.3, 2.6 Hz), 6.40 (ddd, 2H, J=9.0, 6.2, 2.1 Hz), 6.08 (d, 1H, J=2.0 Hz), 5.44 (br s, 2H); MS(ESI+) m/z 314.17 (M+H)+.

reactant | N-(3-fluoro-4-(2-(4-fluorophenylamino)pyridin-4-yloxy)phenyl)acetamide | 0.051 mmol, 18 mg | FC=1C=C(C=CC1OC1=CC(=NC=C1)NC1=CC=C(C=C1)F)NC(C)=O | C19H15F2N3O2
reactant | HCl | 0.60 mmol, 6 M, 0.1 mL | Cl | ClH
solvent | MeOH | 1.5 mL | CO | CH4O
product | 4-(4-Amino-2-fluorophenoxy)-N-(4-fluorophenyl)pyridin-2-amine | 14 mg, 88% | NC1=CC(=C(OC2=CC(=NC=C2)NC2=CC=C(C=C2)F)C=C1)F | C17H13F2N3O
